US07666866B2
D. N1-[4-Benzyloxy-2-(3-tert-butoxycarbonylaminopropoxy)benzoyl]-N2-(4-methoxybenzoyl)-1,2-benzenediamine
In a manner substantially equivalent to Example 101-D, 4-benzyloxy-2-(3-tert-butoxycarbonylaminopropoxy)benzoic acid (4.98 g, 12.4 mmol) and N1-(4-methoxybenzoyl)-1,2-benzenediamine (3.00 g, 12.4 mmol) were coupled to give 5.10 g (65.7%) of the title compound as a white foam after purification by silica gel (hexanes:EtOAc) chromatography on a Waters prep 500 instrument.

reactant | 4-benzyloxy-2-(3-tert-butoxycarbonylaminopropoxy)benzoic acid | 12.4 mmol, 4.98 g | C(C1=CC=CC=C1)OC1=CC(=C(C(=O)O)C=C1)OCCCNC(=O)OC(C)(C)C | C22H27NO6
reactant | N1-(4-methoxybenzoyl)-1,2-benzenediamine | 12.4 mmol, 3.00 g | COC1=CC=C(C(=O)NC=2C(=CC=CC2)N)C=C1 | C14H14N2O2
product | N1-[4-Benzyloxy-2-(3-tert-butoxycarbonylaminopropoxy)benzoyl]-N2-(4-methoxybenzoyl)-1,2-benzenediamine | 5.10 g, 65.7% | C(C1=CC=CC=C1)OC1=CC(=C(C(=O)NC=2C(=CC=CC2)NC(C2=CC=C(C=C2)OC)=O)C=C1)OCCCNC(=O)OC(C)(C)C | C36H39N3O7
